US05068325
8e) 2-Amino-6-(3-(2-methoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 2-methoxy-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. Yield: 13% of theory, Melting point: 80°-84° C.

reactant | 2-methoxy-cinnamyl chloride | COC1=C(C=CCCl)C=CC=C1 | C10H11ClO
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(2-methoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 13% | NC=1SC=2CCN(CCC2N1)CC=CC1=C(C=CC=C1)OC | C17H21N3OS
